US08084448B2
B. (2-Iodomethylphenyl)-carbamic Acid Tert-butyl Ester
To a solution of imidazole (404 mg, 5.94 mmol) and triphenylphosphine (1.56 g, 5.94 mmol) in methylene chloride (50 mL) is added iodine (1.51 g, 5.94 mmol) in portions. When the reaction is complete, a solution of (2-hydroxymethylphenyl)-carbamic acid tert-butyl ester (1.2 g, 5.4 mmol) in methylene chloride (20 mL) is added dropwise and the mixture is stirred at RT for 75 min. The mixture is concentrated and the insoluble material is filtered. The filtrate is evaporated and the residue is purified by column chromatography using a gradient of 25-50% MTBE/methylene chloride as eluent to give the title compound.

reactant | imidazole | 5.94 mmol, 404 mg | N1C=NC=C1 | C3H4N2
reactant | triphenylphosphine | 5.94 mmol, 1.56 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 5.94 mmol, 1.51 g | II | I2
reactant | (2-hydroxymethylphenyl)-carbamic acid tert-butyl ester | 5.4 mmol, 1.2 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)CO)=O | C12H17NO3
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (2-Iodomethylphenyl)-carbamic Acid Tert-butyl Ester | C(C)(C)(C)OC(NC1=C(C=CC=C1)CI)=O | C12H16INO2
